US04529730
1(1) 1-(4-Nitrobenzoyl)-4-(4-fluorobenzyloxy)-piperidine
A mixture of 1.6 g of a 50% aqueous sodium hydroxide solution, 10 ml of methylene chloride, 2 g (0.008 mol) of 1-(4-nitrobenzoyl)-4-hydroxypiperidine, 2.32 g (0.012 mol) of 4-fluorobenzyl bromide and 0.15 g (4×10-4 mol) of tetrabutylammonium iodide is stirred for 5 hours at 50° C. After dilution of the reaction medium with 20 ml of water and 30 ml of methylene chloride, the organic phase is decanted, washed with water until the washings are neutral, dried (MgSO4) and evaporated in vacuo. The residual oil obtained crystallises on stirring in diethyl ether. This yields 2.23 g of a product which is purified by dissolving it in 11 ml of dimethylformamide (DMF) and reprecipitating it by the dropwise addition of 11 ml of water, whilst stirring. After washing with water and drying in vacuo, 1-(4-nitrobenzoyl)-4-(4-fluorobenzyloxy)-piperidine, m.p. 120° C., is obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-(4-nitrobenzoyl)-4-hydroxypiperidine | 0.008 mol, 2 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC(CC2)O)C=C1 | C12H14N2O4
reactant | 4-fluorobenzyl bromide | 0.012 mol, 2.32 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
catalyst | tetrabutylammonium iodide | 4×10-4 mol, 0.15 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Nitrobenzoyl)-4-(4-fluorobenzyloxy)-piperidine | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC(CC2)OCC2=CC=C(C=C2)F)C=C1 | C19H19FN2O4
